US08471005B2
[7-(2-Chloro-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-(4-morpholin-4-yl-phenyl)-amine was prepared from (7-bromo-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-(4-morpholin-4-yl-phenyl)-amine and 2-chloro-3-pyridineboronic acid in an analogous manner to Example 1031b. Product isolated as a yellow foam (48 mg, 40%). LCMS (m/e) 407 (M+H); 1H-NMR (CDCl3, 400 MHz) δ 8.74 (s, 1H), 8.50-8.44 (m, 1H), 8.23 (d, 1H, J=7.6 Hz), 7.43 (d, 2H, J=7.8 Hz), 7.41-7.34 (m, 1H), 7.10-7.05 (m, 1H), 6.88-6.80 (m, 3H), 6.67 (s, 1H), 3.91-3.82 (m, 4H), 3.13-3.06 (m, 4H).

reactant | (7-bromo-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-(4-morpholin-4-yl-phenyl)-amine | BrC1=CC=C2C=NC(=NN21)NC2=CC=C(C=C2)N2CCOCC2 | C16H16BrN5O
reactant | 2-chloro-3-pyridineboronic acid | ClC1=NC=CC=C1B(O)O | C5H5BClNO2
product | [7-(2-Chloro-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-(4-morpholin-4-yl-phenyl)-amine | ClC1=NC=CC=C1C1=CC=C2C=NC(=NN21)NC2=CC=C(C=C2)N2CCOCC2 | C21H19ClN6O
